US05962682
By hydrogenating benzyl {3-(4-tert-butyl-benzenesulphonylamino)-4-(2-methoxy-phenoxy)-5-[2-(pyridin-2-ylcarbamoyl-oxy)-ethoxy]-benzoylamino}-acetate, described in Example 18, in methanol over palladium/charcoal at RT and under normal pressure there was obtained {3-(4-tert-butyl-benzenesulphonylamino)-4-(2-methoxy-phenoxy)-5-[2-(pyridin-2-ylcarbamoyl-oxy)-ethoxy]-benzoylamino}-acetic acid.

reactant | benzyl {3-(4-tert-butyl-benzenesulphonylamino)-4-(2-methoxy-phenoxy)-5-[2-(pyridin-2-ylcarbamoyl-oxy)-ethoxy]-benzoylamino}-acetate | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)NCC(=O)OCC2=CC=CC=C2)C=C(C1OC1=C(C=CC=C1)OC)OCCOC(NC1=NC=CC=C1)=O | C41H42N4O10S
solvent | methanol | CO | CH4O
catalyst | palladium/charcoal | [Pd] | Pd
product | {3-(4-tert-butyl-benzenesulphonylamino)-4-(2-methoxy-phenoxy)-5-[2-(pyridin-2-ylcarbamoyl-oxy)-ethoxy]-benzoylamino}-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)NCC(=O)O)C=C(C1OC1=C(C=CC=C1)OC)OCCOC(NC1=NC=CC=C1)=O | C34H36N4O10S
